US06140100
According to example 151, 1.65 g of ethyl N-((benzyloxy)carbonyl)-2-iodo-4-nitro-L-phenylalaninate was subjected to Heck coupling with 20 mL of cyclopentene using 60 mL of toluene, 0.074 g of Pd(OAc)2, 0.20 g of tri-ortho-tolylphosphine, and 0.51 mL of Et3N. The reaction was carried out at 110° C. for 24 h. Analysis of the crude product by tlc (SiO2, 8:2 hexane:EtOAc) indicated a major product at Rf =0.40 and minor components at Rf =0.38, 0.60, and 0.95. The Rf =0.40 material was isolated by flash chromatography on silica gel (8:2 hexane:EtOAc). This afforded 1.03 g (71%) of the desired olefin mixture as a clear liquid. This material was subjected to catalytic hydrogenation at 45 psi for 18 h using 55 mL of MeOH and 0.25 g of 10% Pd(C). The crude product was purified by flash chromatography (SiO2, 99:1 EtOAc:MeOH) to give 0.56 g (61% for both steps) of ethyl 4-amino-2-cyclopentyl-L-phenylalaninate as a thick transparent oil.

reactant | ethyl N-((benzyloxy)carbonyl)-2-iodo-4-nitro-L-phenylalaninate | 1.65 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=C(C=C(C=C1)[N+](=O)[O-])I)C(=O)OCC | C19H19IN2O6
reactant | cyclopentene | 20 mL | C1=CCCC1 | C5H8
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | tri-ortho-tolylphosphine | 0.20 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | Pd(OAc)2 | 0.074 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | MeOH | 55 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | Et3N | 0.51 mL | CCN(CC)CC | C6H15N
product | ethyl 4-amino-2-cyclopentyl-L-phenylalaninate | NC1=CC(=C(C[C@H](N)C(=O)OCC)C=C1)C1CCCC1 | C16H24N2O2
